US06680322B2
To solution of Fmoc-β-Ala-OH (1.0 g, 3.212 mmol) and oxalyl chloride (0.428 g, 0.29 mL, 3.373 mmol) in dichloromethane (20.0 mL) was added a few drops of N,N-dimethylformamide at 0° C. The mixture was stirred at room temperature for 1 hr followed by addition of cyclopropylmethylamine (0.229 g, 0.28 mL, 3.212 mmol) and triethylamine (0.65 g, 0.90 mL, 6.424 mmol). After 10 min, the mixture was treated with 1 M hydrochloride (10.0 mL) and the aqueous mixture was extracted with dichloromethane (3×30.0 mL). The organic solution was concentrated in vacuo to dryness. The residue was treated with a solution of 20% piperidine in N,N-dimethylforamide (20.0 mL) for 0.5 hr. After removal of the solvent in vacuo, the residue was treated with 1 M hydrochloride (20.0 mL) and ethyl acetate (20.0 mL). The mixture was separated and the aqueous layer was basified with solid sodium hydroxide to pH=8. The precipitate was removed by filtration and the aqueous solution was subjected to ion exchange column eluted with 20% pyridine to give 0.262 g (57%) of N-cyclopropylmethyl β-alanine amide. 1H NMR (200 MHz, CD3OD) δ—0.22 (m, 2H), 0.49 (m, 2H), 0.96 (m, 2H), 2.40 (t, 2H), 2.92 (t, 2H), 3.05 (d, 2H); MS (ES): 143.1 (M++1).

reactant | Fmoc-β-Ala-OH | 3.212 mmol, 1.0 g | N(CCC(=O)O)C(=O)OCC1C2=CC=CC=C2C2=CC=CC=C12 | C18H17NO4
reactant | oxalyl chloride | 3.373 mmol, 0.29 mL, 0.428 g | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | cyclopropylmethylamine | 3.212 mmol, 0.28 mL, 0.229 g | C1(CC1)CN | C4H9N
reactant | triethylamine | 6.424 mmol, 0.90 mL, 0.65 g | C(C)N(CC)CC | C6H15N
reactant | hydrochloride | 1 M, 10.0 mL | Cl | ClH
solvent | dichloromethane | 20.0 mL | ClCCl | CH2Cl2
catalyst | N,N-dimethylformamide | a few drops | CN(C=O)C | C3H7NO
product | N-cyclopropylmethyl β-alanine amide | 0.262 g, 57% | C1(CC1)CNC(CCN)=O | C7H14N2O
